US07960561B2
N-(Benzoimidazol-2-yl)-2-chloro-5-(trifluoromethyl)aniline
The title compound was prepared from 2-chlorobenzimidazole and 3-amino-4-chlorobenzotrifluoride by Procedure A. The product was isolated upon basic work-up and purified by preparative LCMS to give the title compound as the free base. 1NMR (CDCl3) δ 6.40 (br s, 2H), 7.11-7.15 (d, 1H), 7.18-7.25 (m, 2H), 7.35-7.41 (d, 1H), 7.42-7.46 (m, 2H), 8.57 (s, 1H). MS(ES+) m/z 312 ([M+1]+, 100).

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 3-amino-4-chlorobenzotrifluoride | NC=1C=C(C=CC1Cl)C(F)(F)F | C7H5ClF3N
product | N-(Benzoimidazol-2-yl)-2-chloro-5-(trifluoromethyl)aniline | N1=C(NC2=C1C=CC=C2)NC2=C(C=CC(=C2)C(F)(F)F)Cl | C14H9ClF3N3
